US06919343B2
To a solution of 2-fluoro-6-iodobenzoic acid (15.00 g, 56.39 mmol) in 150 mL CH2Cl2 containing 0.1 mL DMF was added oxalyl chloride (9.30 g, 73.3 mmol) dropwise. The solution was stirred at room temperature for 75 minutes, then concentrated in vacuo. The residue was re-dissolved in 150 mL CH2Cl2, and the solution was saturated three times with ammonia gas. The solution was concentrated in vacuo and dried under vacuum overnight. The residue was dissolved in N,N-dimethylacetamide dimethyl acetal (24.7 mL, 0.169 mol) and heated to 120° C. for 5 hours. Additional N,N-dimethylacetamide dimethyl acetal (25 mL, 0.17 mol) was added over the course of the reaction to drive it to completion. The solution was cooled to room temperature, concentrated in vacuo, and dried under vacuum overnight. To a solution of the intermediate in 57 mL dioxane was added hydroxylamine hydrochloride (4.704 g, 67.69 mmol), 5N NaOH (13.5 mL, 67.7 mmol), and 70% acetic acid (57 mL). The mixture was stirred at 60° C. for 2 hours, then at 90° C. for 3 hours. The resulting solution was cooled to room temperature, diluted with ethyl acetate, and neutralized with aqueous sodium bicarbonate. The organic extract was washed with aqueous sodium bicarbonate and brine, dried over sodium sulfate, filtered and concentrated under vacuum. The residue was filtered through silica gel eluted with 10% ethyl acetate in hexanes to provide 5-(2-fluoro-6-iodophenyl)-3-methyl-1,2,4-oxadiazole as orange yellow crystals that gave proton NMR spectra consistent with theory and a mass ion (ES+) of 305.06 for M+H+.

reactant | 2-fluoro-6-iodobenzoic acid | 56.39 mmol, 15.00 g | FC1=C(C(=O)O)C(=CC=C1)I | C7H4FIO2
reactant | oxalyl chloride | 73.3 mmol, 9.30 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylacetamide dimethyl acetal | 0.169 mol, 24.7 mL | COC(C)(N(C)C)OC | C6H15NO2
reactant | N,N-dimethylacetamide dimethyl acetal | 0.17 mol, 25 mL | COC(C)(N(C)C)OC | C6H15NO2
reactant | hydroxylamine hydrochloride | 67.69 mmol, 4.704 g | Cl.NO
reactant | NaOH | 67.7 mmol, 5N, 13.5 mL | [OH-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 57 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 57 mL | C(C)(=O)O | C2H4O2
product | 5-(2-fluoro-6-iodophenyl)-3-methyl-1,2,4-oxadiazole | FC1=C(C(=CC=C1)I)C1=NC(=NO1)C | C9H6FIN2O
